US07816522B2
(2a) 4-{[cyano-(2-fluoro-3,5-dimethoxyphenyl)methyl]amino}benzonitrile
After adding 1.23 g of 4-aminobenzonitrile [CAS No. 873-74-5], 1.92 g of 2-fluoro-3,5-dimethoxybenzaldehyde [CAS No. 113984-71-7], 1.0 g of MS3A and 2.77 ml of trimethylsilyl cyanide to a solution of 0.645 g of Yb(OTf)3 in 20 ml of dichloromethane under a nitrogen atmosphere, the mixture was stirred at room temperature for 20 hours. After then adding 500 ml of ethyl acetate and 300 ml of water to the reaction mixture, it was filtered through celite and the celite was washed with 500 ml of ethyl acetate. The organic layers were combined and dried over anhydrous magnesium sulfate. The desiccating agent was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (2.59 g) as a white solid.

reactant | 4-aminobenzonitrile | 1.23 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 2-fluoro-3,5-dimethoxybenzaldehyde | 1.92 g | FC1=C(C=O)C=C(C=C1OC)OC | C9H9FO3
reactant | trimethylsilyl cyanide | 2.77 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | Yb(OTf)3 | 0.645 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 300 ml | O | H2O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 4-{[cyano-(2-fluoro-3,5-dimethoxyphenyl)methyl]amino}benzonitrile | 2.59 g | C(#N)C(C1=C(C(=CC(=C1)OC)OC)F)NC1=CC=C(C#N)C=C1 | C17H14FN3O2
